US05071863
A.1 4-Fluoro-2-nitroanisole
Sodium hydride 4.59 g (7.64 g as 60% mineral oil dispersion) was suspended in DMF (64 ml) under a nitrogen atmosphere. To this was added 4-fluoro-2-nitrophenol in 64 ml DMF over 30 minutes at room temperature. Stirring continued for 15 minutes. Methyl iode was then added over 15 minutes. The mixture was further stirred for 3 hours. The precipitates which formed were filtered off and the filtrate was evaporated to dryness. The residue was dissolved in benzene and the filtrate washed with water, aqueous sodium hydroxide and with brine. This solution was dried over sodium sulfate and evaporated to give 21.1 g of the title compound: m.p. 60° C.

reactant | Sodium hydride | 4.59 g | [H-].[Na+]
reactant | 4-fluoro-2-nitrophenol | FC1=CC(=C(C=C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | DMF | 64 ml | CN(C)C=O | C3H7NO
reactant | DMF | 64 ml | CN(C)C=O | C3H7NO
product | 4-Fluoro-2-nitroanisole | 21.1 g | FC1=CC(=C(C=C1)OC)[N+](=O)[O-] | C7H6FNO3
